US06255496B1
2-[N-[Bis-(4-chlorophenyl)methyl]N-methylamino]ethanol
A solution of 4,4′-dichlorobenzhydryl chloride (5.20 g, 19.1 mmol) and 2-(methylamino)ethanol (9.0 g, 0.106 mol) in acetonitrile (100 ml) was treated with powdered anhydrous potassium carbonate (10 g) and the resulting mixture was heated under reflux for 4 h. The cooled mixture was filtered and the filtrate was concentrated in vacuo. The residual oil was diluted with ethyl acetate, washed with water and brine and then dried over anhydrous magnesium sulfate. Evaporation of the solvent in vacuo followed by chromatography on silica gel (elution toluene-ethyl acetate 9:1) gave 4.29 g (79%) of the title material as a white solid: mp 49-50° C.

reactant | 4,4′-dichlorobenzhydryl chloride | 19.1 mmol, 5.20 g | ClC1=CC=C(C(C2=CC=C(C=C2)Cl)Cl)C=C1 | C13H9Cl3
reactant | 2-(methylamino)ethanol | 0.106 mol, 9.0 g | CNCCO | C3H9NO
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-[N-[Bis-(4-chlorophenyl)methyl]N-methylamino]ethanol | 4.29 g, 79% | ClC1=CC=C(C=C1)C(N(C)CCO)C1=CC=C(C=C1)Cl | C16H17Cl2NO
